US04603198
7 g of N-hydroxyphthalimide was dissolved in 120 ml of DMF and then 9.8 g of potassium carbonate and 300 mg of 18-Crown-6(Merck & co, Ltd.) were added thereto. A mixture of 4.3 g of 4-(2-chloroethyl)imidazole hydrochloride and 30 ml of DMF was added to the mixture under stirring. The resulting mixture was stirred for 15 hours at 50° C. After cooling, the insoluble material was removed by filtration and the filtrate was evaporated and then chloroform was added to the residue. The mixture was washed with SSB and SSC and dried with sodium sulfate and concentrated to dryness. The residue was washed with ether to give 2.9 g of N-(2-imidazol-4yl)ethoxy)phthalimide with mp 145°-146° C. as a hygroscopic colorless powder.

reactant | N-hydroxyphthalimide | 7 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | potassium carbonate | 9.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-Crown-6 | 300 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 4-(2-chloroethyl)imidazole hydrochloride | 4.3 g | Cl.ClCCC=1N=CNC1
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
